Monte-Carlo Sallen Key
V1 IN 0 AC 1

.param tol_C1 = 0.2
.param tol_C2 = 0.2



C1 IN 1 {MC(0.1u, tol_C1)}
C2 1 2 {MC(0.1u, tol_C2)}

R1 1 OUT 7171
R2 2 0 14142

X1 2 OUT OUT OPAMP


.INC ideal_opamp.cir
.step param run 1 500 1
.AC DEC 500 100 100k
