MultiFeedback HPF
V1 IN 0 AC 1

C1 IN 1 0.1u
C2 1 2 0.1u
C3 1 OUT 0.1u

R1 1 0 4714
R2 OUT 2 21200

X1 0 2 OUT OPAMP


.INC ideal_opamp.cir
.AC DEC 500 100 100k
.END
