Netlist 2


.param tol_C1 = 0.2
.param tol_C2 = 0.2
.param tol_C3 = 0.2
.param tol_C4 = 0.2
.param tol_C5 = 0.2
.param tol_C6 = 0.2

*Sallen-Key 1
V1 1 0 AC 1
C1 1 2 {MC(0.02u, tol_C1)}
C2 2 3 {MC(0.02u, tol_C2)}
R1 2 4 9.65k
R2 3 0 10.4k
X1 4 3 4 OPAMP

*Sallen-Key 2
C3 4 5 {MC(0.02u, tol_C3)}
C4 5 6 {MC(0.02u, tol_C4)}
R3 5 7 7.07k
R4 6 0 14.14k
X2 7 6 7 OPAMP

*Sallen-Key 3
C5 7 8 {MC(0.02u, tol_C5)}
C6 8 9 {MC(0.02u, tol_C6)}
R5 8 10 2.6k
R6 9 0 38.6k
X3 10 9 10 OPAMP

*Non-Inverting Op-Amp
R7 0 11 10k
R8 11 OUT 18.2k
X4 10 11 OUT OPAMP

.inc ideal_opamp.cir
.step param run 1 500 1
.AC dec 500 100 100k
.end
